US05102667
Potassium carbonate (26.9 g) is added to a solution of bis-(2-fluorophenyl)acetaldehyde (30.8 g) in 1,2-dimethoxyethane (135 cc) and, after cooling to -50° C., butenone (19.9 cc) is then added dropwise. The reaction mixture is stirred for 12 h at -50° C. and then for 6 hours at 25° C. and diluted with ethyl acetate (250 cc) and water (200 cc). The organic phase is washed with water (3×200 cc) and then with saturated sodium chloride solution (200 cc), dried over magnesium sulphate and concentrated under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.063 mm, diameter 5.5 cm, height 50 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (90/10). 2,2-bis-(2-Fluorophenyl)-5-oxohexanal (9 g) is obtained in the form of a yellow oil. A solution of this compound (6.65 g) in toluene (100 cc) containing paratoluenesulphonic acid (1.5 g) is refluxed for 3 hours, washed with water (2×100 cc) and then with saturated sodium chloride solution (100 cc), dried over magnesium sulphate and concentrated under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.063 mm, diameter 4 cm, height 30 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (90/10) and collecting 15 cc fractions. Fractions 21 to 26 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give 4,4-bis-(2-fluorophenyl)-cyclohexenone (2.83 g) in the form of yellow oil.

reactant | Potassium carbonate | 26.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | bis-(2-fluorophenyl)acetaldehyde | 30.8 g | FC1=C(C=CC=C1)C(C=O)C1=C(C=CC=C1)F | C14H10F2O
reactant | butenone | 19.9 cc | CC(C=C)=O | C4H6O
solvent | 1,2-dimethoxyethane | 135 cc | COCCOC | C4H10O2
solvent | ethyl acetate | 250 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 200 cc | O | H2O
product | 2,2-bis-(2-Fluorophenyl)-5-oxohexanal | 9 g | FC1=C(C=CC=C1)C(C=O)(CCC(C)=O)C1=C(C=CC=C1)F | C18H16F2O2
